US07498460B2
Methyl 1-[2-hydroxy-5-(methoxycarbonyl)benzoyl]-4-piperidinecarboxylate is prepared in analogy to the process described in Example IX, method 1, from 2-hydroxy-5-carbomethoxybenzoic acid [CAS No. 79128-78-2] and methyl piperidine-4-carboxylate hydrochloride.

reactant | 2-hydroxy-5-carbomethoxybenzoic acid | OC1=C(C(=O)O)C=C(C=C1)C(=O)OC | C9H8O5
reactant | methyl piperidine-4-carboxylate hydrochloride | Cl.N1CCC(CC1)C(=O)OC
product | Methyl 1-[2-hydroxy-5-(methoxycarbonyl)benzoyl]-4-piperidinecarboxylate | OC1=C(C(=O)N2CCC(CC2)C(=O)OC)C=C(C=C1)C(=O)OC | C16H19NO6
